US09029391B2
methyl 4-(2,4-dimethylphenyl)-2-methyl-1-oxo-1,2-dihydro-3-isoquinolinecarboxylate
An ice cold mixture of methyl 2-(2-(2,4-dimethylbenzoyl)-N-methylbenzamido)acetate (60 g, 177 mmol) in methanol (400 mL) was treated with sodium methoxide (42.0 g, 194 mmol) and the resultant was allowed to stir at ambient temperature for 1 hour. The mixture was cooled to 0° C., treated with HCl (21.78 mL, 265 mmol) and then concentrated. The residue was dissolved in ethyl acetate, washed with water, brine, dried over Na2SO4, filtered and concentrated. The crude intermediate was treated with Toluene (400 mL) and pTsOH (16.81 g, 88 mmol) and the mixture was heated at 120° C. for 1 hour. Additional pTsOH (16.81 g, 88 mmol) was added and the mixture was stirred at 120° C. overnight. LCMS indicated complete reaction. The mixture was concentrated and the residue was dissolved in ethyl acetate. The organic phase was washed with water, then brine, dried over Na2SO4, filtered and concentrated. The residue was purified on silica gel (0-60% EA on hexane) to give the desired product as a white solid (24 g, 53%). 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 8.48-8.57 (m, 1 H) 7.50-7.58 (m, 2 H) 7.10-7.14 (m, 1 H) 7.04 (s, 3 H) 3.61 (s, 3 H) 3.54 (s, 3 H) 2.39 (s, 3 H) 2.04 (s, 3 H); LC/MS (m/z) ES+=322 (M+1).

reactant | methyl 2-(2-(2,4-dimethylbenzoyl)-N-methylbenzamido)acetate | 177 mmol, 60 g | CC1=C(C(=O)C2=C(C(=O)N(C)CC(=O)OC)C=CC=C2)C=CC(=C1)C | C20H21NO4
reactant | sodium methoxide | 194 mmol, 42.0 g | C[O-].[Na+]
reactant | HCl | 265 mmol, 21.78 mL | Cl | ClH
reactant | pTsOH | 88 mmol, 16.81 g | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
reactant | pTsOH | 88 mmol, 16.81 g | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
solvent | methanol | 400 mL | CO | CH4O
solvent | Toluene | 400 mL | C1(=CC=CC=C1)C | C7H8
product | methyl 4-(2,4-dimethylphenyl)-2-methyl-1-oxo-1,2-dihydro-3-isoquinolinecarboxylate | 24 g, 53% | CC1=C(C=CC(=C1)C)C1=C(N(C(C2=CC=CC=C12)=O)C)C(=O)OC | C20H19NO3
